US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(3′-nitro-1,1′-biphenyl-4-yl)acetamide hydrochloride
61.3 mg (0.37 mmol) of 3-nitrophenylboronic acid, 0.5 ml (1.0 mmol) of 2M aqueous sodium carbonate solution and 12.2 mg (0.02 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride are added to a solution of 120 mg (0.33 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride in 2 ml of DMF. The reaction mixture is stirred at 80° C. for 14 h, cooled, filtered through kieselguhr and then purified by preparative HPLC. The product fractions are concentrated, taken up in a 5:1 mixture of methanol and 1M hydrochloric acid and again concentrated. Drying under high vacuum results in 13 mg (9.7% of theory) of the title compound.

reactant | 3-nitrophenylboronic acid | 0.37 mmol, 61.3 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 1.0 mmol, 2M, 0.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride | 0.33 mmol, 120 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC=C(C=C2)Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.02 mmol, 12.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(3′-nitro-1,1′-biphenyl-4-yl)acetamide hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC=C(C=C2)C2=CC(=CC=C2)[N+](=O)[O-] | InChI=1S/C21H23N3O3.ClH/c25-21(13-18-14-23-10-8-16(18)9-11-23)22-19-6-4-15(5-7-19)17-2-1-3-20(12-17)24(26)27;/h1-7,12,16,18H,8-11,13-14H2,(H,22,25);1H
